.SUBCKT sg13g2_xor2_2 VSS X A B VDD
M$1 VSS \$3 X VSS sg13_lv_nmos L=0.13u W=1.48u AS=0.6704p AD=0.2886p PS=5.88u
+ PD=2.26u
M$3 \$2 B X VSS sg13_lv_nmos L=0.13u W=1.48u AS=0.3886p AD=0.3886p PS=3.3u
+ PD=3.3u
M$5 VSS A \$3 VSS sg13_lv_nmos L=0.13u W=0.55u AS=0.18685p AD=0.10725p PS=1.54u
+ PD=0.94u
M$6 VSS B \$3 VSS sg13_lv_nmos L=0.13u W=0.55u AS=0.2744p AD=0.10725p PS=2.56u
+ PD=0.94u
M$7 VSS A \$2 VSS sg13_lv_nmos L=0.13u W=1.48u AS=0.52205p AD=0.2886p PS=4.48u
+ PD=2.26u
M$9 \$8 \$3 X VDD sg13_lv_pmos L=0.13u W=2.24u AS=0.5843p AD=0.5843p PS=4.44u
+ PD=4.44u
M$11 VDD B \$8 VDD sg13_lv_pmos L=0.13u W=2.24u AS=0.6752p AD=0.6752p PS=5.21u
+ PD=5.21u
M$13 VDD A \$8 VDD sg13_lv_pmos L=0.13u W=2.24u AS=0.6752p AD=0.4818p PS=5.21u
+ PD=3.43u
M$15 VDD A \$6 VDD sg13_lv_pmos L=0.13u W=1u AS=0.2634p AD=0.195p PS=1.92u
+ PD=1.39u
M$16 \$6 B \$3 VDD sg13_lv_pmos L=0.13u W=1u AS=0.195p AD=0.3275p PS=1.39u
+ PD=2.69u
.ENDS sg13g2_xor2_2
